US09359340B2
4M HCl/dioxane (11.2 ml, 44.9 mmol) was added to a solution of tert-butyl 4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (0.600 g, 1.79 mmol) in dioxane (15 mL). The reaction mixture was stirred at room temperature under nitrogen overnight (20 hours). The mixture was concentrated to dryness and dried on high vacuum line. The crude was suspended in ether, sonicated, and stirred for 5 minutes. The solids were isolated by filtration through a medium frit funnel with nitrogen pressure, rinsed with ether, dried under nitrogen pressure, and dried further on a hi vacuum line to give (5R,7R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol dihydrochloride (0.440 g, 79.8% yield) as a yellow powder. LC/MS (APCI+) m/z 235. The (5R,7S)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol dihydrochloride was prepared using an analogous method.

reactant | HCl dioxane | 44.9 mmol, 4M, 11.2 ml | Cl.O1CCOCC1
reactant | tert-butyl 4-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | 1.79 mmol, 0.600 g | O[C@@H]1C[C@H](C2=C1N=CN=C2N2CCN(CC2)C(=O)OC(C)(C)C)C | C17H26N4O3
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | (5R,7R)-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol dihydrochloride | 0.440 g, 79.8% yield | Cl.Cl.C[C@@H]1C[C@H](C=2N=CN=C(C21)N2CCNCC2)O | InChI=1S/C12H18N4O.2ClH/c1-8-6-9(17)11-10(8)12(15-7-14-11)16-4-2-13-3-5-16;;/h7-9,13,17H,2-6H2,1H3;2*1H/t8-,9-;;/m1../s1
